US08735440B2
Step 1. Synthesis of 9H-carbazole-3-carbonitrile
A solution of 3-bromo-9H-carbazole (123.4 mg, 0.50 mmol) and CuCN (49.9 mg, 0.56 mmol) in N-methyl-pyrrolidone (2 mL) was heated at 200° C. for 5 h. The cooled reaction mixture was poured into water and the precipitate was filtered and washed with ethyl acetate. The filtrate was extracted with ethyl acetate and the combined ethyl acetate extracts were washed with water, brine, dried (Na2SO4), filtered, and concentrated in vacuo. The crude residue was purified by flash column chromatography to afford the product as a white solid (84.7 mg, 88%).

reactant | 3-bromo-9H-carbazole | 0.50 mmol, 123.4 mg | BrC=1C=CC=2NC3=CC=CC=C3C2C1 | C12H8BrN
reactant | CuCN | 0.56 mmol, 49.9 mg | C(#N)[Cu]
reactant | water | O | H2O
solvent | N-methyl-pyrrolidone | 2 mL | CN1C(CCC1)=O | C5H9NO
product | 9H-carbazole-3-carbonitrile | 84.7 mg, 88% | C1=CC(=CC=2C3=CC=CC=C3NC12)C#N | C13H8N2
